US07795283B2
i) tert-Butyl 4-(2-methoxy-1-methyl-2-oxoethylidene)piperidine-1-carboxylate
To a suspension of 60% NaH (2.005 g; 50.00 mmol) in anhydrous THF (100 mL), under an atmosphere of argon, was added triethyl 2-phosphonopropionate (10.73 mL; 50.00 mmol), at such a rate as to keep the reaction temperature below 30° C. The resulting mixture was stirred at room temperature for a further 1 hr. A solution of N-Boc-4-piperidone (9.965 g; 50.00 mmol), in anhydrous THF (50 mL), was added dropwise over five minutes. The resulting clear solution was stirred at ambient temperature for ˜1 hr. The reaction was quenched by the addition of water (100 mL). The resulting mixture was partitioned, the aq layer extracted once with EtOAc and the combined organics washed with saturated brine. The organics were dried over MgSO4, filtered and evaporated to a colourless oil; 14.76 g. (˜quantitative yield). This was used in the next stage without further purification. 1H NMR δ 1.19 (t, 3H), 1.36 (s, 9H), 1.77 (s, 3H), 2.25-2.37 (m, 2H), 2.51-2.56 (m, 2H), 3.22-3.44 (m, 4H), 4.11 (q, 2H). MS m/e [MH—(CO2, C4H8)]+=184.31.

reactant | NaH | 50.00 mmol, 2.005 g | [H-].[Na+]
reactant | triethyl 2-phosphonopropionate | 50.00 mmol, 10.73 mL | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | N-Boc-4-piperidone | 50.00 mmol, 9.965 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(2-methoxy-1-methyl-2-oxoethylidene)piperidine-1-carboxylate | ˜quantitative yield | COC(C(C)=C1CCN(CC1)C(=O)OC(C)(C)C)=O | C14H23NO4
